US04179277
A solution of 109 g (0.5 mol) of 4,5-dichloro-2-dichloromethylene-imidazole in 125 ml of dioxane was added dropwise in the course of about 10-15 minutes to a mixture of 81 g (0.5 mol) of finely powdered 2,6-dichloroaniline, 500 ml of water and 75 g (about 0.75 mol) of 37% strength aqueous hydrochloric acid at 55°-60° C., while stirring. After stirring for about a further 2 hours, the product was filtered off, washed with water and dried. 159 g (92% of theory) of 4,5-dichloro-imidazole-2-carboxylic acid N-(2,6-dichlorophenyl)-imide-chloride were obtained. Long needles with a decomposition point of about 200° C. from acetonitrile or from chloroform.

reactant | 4,5-dichloro-2-dichloromethylene-imidazole | 0.5 mol, 109 g | ClC1=NC(N=C1Cl)=C(Cl)Cl | C4Cl4N2
reactant | 2,6-dichloroaniline | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | water | 500 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 125 ml | O1CCOCC1 | C4H8O2
product | 4,5-dichloro-imidazole-2-carboxylic acid N-(2,6-dichlorophenyl)-imide-chloride | 159 g, 92% | [Cl-].ClC1=C(C(=CC=C1)Cl)N=C(O)C=1NC(=C(N1)Cl)Cl | InChI=1S/C10H5Cl4N3O.ClH/c11-4-2-1-3-5(12)6(4)15-10(18)9-16-7(13)8(14)17-9;/h1-3H,(H,15,18)(H,16,17);1H/p-1
